US05843971
1,1-Di(2-thiazolyl)-2,2,2-trifluoroethanol
From 2-bromothiazole and 2-trifluoroacetylthiazole. M.p. 113°-115° C. 13C Nmr (d6 -DMSO) 77.3 (q, J 30Hz), 122.8, 123.0 (q, J 286 Hz), 142.7 and 166.1 ppm. Found: C, 36.25; H, 1.7; N, 10.5. C8H5F3N2OS2 requires C, 36.1; H, 1.9; N, 10.5%.

reactant | 2-bromothiazole | BrC=1SC=CN1 | C3H2BrNS
reactant | 2-trifluoroacetylthiazole | FC(C(=O)C=1SC=CN1)(F)F | C5H2F3NOS
solvent | DMSO | CS(=O)C | C2H6OS
product | 1,1-Di(2-thiazolyl)-2,2,2-trifluoroethanol | S1C(=NC=C1)C(C(F)(F)F)(O)C=1SC=CN1 | C8H5F3N2OS2
